US06872731B2
3-Bromo-7-methylimidazo[1,2-α]pyridine (4.2 g, 20.0 mmol) and 3-aminophenylboronic acid (4.0 g, 25.8 mmol) were suspended in 1,2-dimethoxyethane (80 ml) and sodium carbonate (40 ml of a 2M solution) and the resulting solution degassed for 25 minutes. Tetrakis(triphenylphosphine)palladium(0) (250 mg, 0.2 mmol) was added and the mixture heated at reflux for 17 hours. The cooled reaction mixture was poured into water (150 ml), extracted with ethyl acetate (3×70 ml) and the combined organics dried over anhydrous magnesium sulphate. The solution was filtered and concentrated in vacuo to yield 3-(3-aminophenyl)-7-methylimidazo[1,2-α]pyridine as a colourless oil (4.5 g, 100%) which was used without further purification. 1H NMR (400 MHz, CDCl3) δH 2.38 (3H, s), 3.58 (2H, br s), 6.60 (1H, d, J 7), 6.70 (1H, d, J 8), 6.81 (1H, s), 6.91 (1H, d, J8), 7.24-7.28 (1H, m), 7.39 (1H, s), 7.57 (1H, s), 8.23 (1H, d, J 7); m/z (ES+) 224 (M++H).

reactant | 3-Bromo-7-methylimidazo[1,2-α]pyridine | 20.0 mmol, 4.2 g | BrC1=CN=C2N1C=CC(=C2)C | C8H7BrN2
reactant | 3-aminophenylboronic acid | 25.8 mmol, 4.0 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | water | 150 ml | O | H2O
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-aminophenyl)-7-methylimidazo[1,2-α]pyridine | 4.5 g, 100% | NC=1C=C(C=CC1)C1=CN=C2N1C=CC(=C2)C | C14H13N3
